US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-5-(dimethylamino)-1-naphthalenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and dansylchloride (73 mg, 0.27 mmol) to give 51 mg AS purple solid. M+1 580.3 Calcd 580.20. 1HNMR δ 8.86 (d, 1H), 8.62 (d, 1H), 8.08-7.46 (m, 9H), 6.64 (d, 1H), 6.32 (dd, 1H), 6.14 (d, 1H), 3.53 (app t, 2H), 3.45 (s, 6H), 3.16-3.06 (m, 4H), 2.03-1.95 (m, 2H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | dansylchloride | 0.27 mmol, 73 mg | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)Cl | C12H12ClNO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-5-(dimethylamino)-1-naphthalenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=CC2=C(C=CC=C12)N(C)C)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C29H33N5O4S2.ClH/c1-33(2)28-13-6-12-25-24(28)11-7-14-29(25)40(37,38)31-26-16-15-22(34-19-8-17-30-18-20-34)21-27(26)32-39(35,36)23-9-4-3-5-10-23;/h3-7,9-16,21,30-32H,8,17-20H2,1-2H3;1H
